US05157038
Preparation of 8-benzyl-4-methylene-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane
After refluxing a solution containing 9.6 g of 8-benzyl-4-hydroxy-4-methyl-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane in a mixture of 96 ml of acetic acid and 5.7 ml of acetic anhydride under argon for 5 hours the solvent is evaporated under reduced pressure. After adding 5% by weight aqueous sodium hydroxide solution to the residue up to a pH value of 10, the mixture is extracted with benzene and the organic phase is washed to neutral with water. After drying the organic phase over anhydrous sodium sulfate benzene is evaporated under reduced pressure. After recrystallizing the residue from diisopropyl ether the title compound is obtained in 86.4% yield, m.p.: 70°-71° C.

reactant | 8-benzyl-4-hydroxy-4-methyl-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 9.6 g | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)CCC)(C)O)CC1 | C18H26N2O3
solvent | acetic acid | 96 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 5.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-benzyl-4-methylene-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 86.4% yield | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)CCC)=C)CC1 | C18H24N2O2
